US07592363B2
N-METHYL-3-({3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}ETHYNYL)BENZAMIDE
A solution of 3-({3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}ethynyl)benzoic acid (0.042 g, 0.076 mmol), methyl amine-HCl (0.006 g, 0.076 mmol) and carbonyl diimidazole (0.013 g, 0.076 mmol) in 2 mL DMF was stirred at ambient temperature overnight. The reaction mixture was partitioned with ethyl acetate and H2O. The organic phase was concentrated in vacuo and purified by flash chromatography (silica 60, CH2Cl2—CH3OH, 25:1) to give 0.017 g of the product.

reactant | 3-({3-[2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazol-3-yl]phenyl}ethynyl)benzoic acid | 0.076 mmol, 0.042 g | FC1=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=CC2)C#CC=2C=C(C(=O)O)C=CC2)C(F)(F)F)C(=CC(=C1)F)F | C30H16F6N2O2
reactant | methyl amine-HCl | 0.076 mmol, 0.006 g | Cl.CN
reactant | carbonyl diimidazole | 0.076 mmol, 0.013 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-METHYL-3-({3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}ETHYNYL)BENZAMIDE | 0.017 g | CNC(C1=CC(=CC=C1)C#CC1=CC(=CC=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F)=O | C31H19F6N3O
